US07462623B2
7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-(2,3-methylenedioxypyrid-4-ylamino)-5-isopropoxyquinazoline
Using an analogous procedure to that described in Example 16, 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-chloro-5-isopropoxyquinazoline was reacted with 4-amino-2,3-methylenedioxypyridine to give the title compound in 55% yield; NMR Spectrum: (CDCl3) 1.55 (s, 3H), 1.56 (s, 3H), 2.1 (s, 3H), 2.59 (m, 4H), 2.89 (m, 2H), 3.51 (m, 2H), 3.67 (m, 2H), 4.24 (m, 2H), 4.85 (m, 1H), 6.13 (s, 2H), 6.57 (s, 1H), 6.85 (s, 1H), 7.71 (d, 1H), 8.41 (d, 1H), 8.66 (s, 1H); Mass Spectrum: M+H+ 495.

reactant | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-chloro-5-isopropoxyquinazoline | C(C)(=O)N1CCN(CC1)CCOC1=CC(=C2C(=NC=NC2=C1)Cl)OC(C)C | C19H25ClN4O3
reactant | 4-amino-2,3-methylenedioxypyridine | NC1=C2C(=NC=C1)OCO2 | C6H6N2O2
product | 7-[2-(4-acetylpiperazin-1-yl)ethoxy]-4-(2,3-methylenedioxypyrid-4-ylamino)-5-isopropoxyquinazoline | 55% yield | C(C)(=O)N1CCN(CC1)CCOC1=CC(=C2C(=NC=NC2=C1)NC1=C2C(=NC=C1)OCO2)OC(C)C | C25H30N6O5
